US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2 -(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(2,5-dimethyl-1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(2,5-dimethyl-1H- indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 216°-218° C.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2 -(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(2,5-dimethyl-1H-indol-3-yl)-1,1-dimethylethyl]amine | CC=1NC2=CC=C(C=C2C1CC(C)(C)N)C | C14H20N2
product | [2-(2,5-dimethyl-1H- indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.CC=1NC2=CC=C(C=C2C1CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C)C | InChI=1S/C26H36N2O2.ClH/c1-18(2)17-30-25-10-8-7-9-24(25)29-14-13-27-26(5,6)16-22-20(4)28-23-12-11-19(3)15-21(22)23;/h7-12,15,18,27-28H,13-14,16-17H2,1-6H3;1H
